Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Right sided weakness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ year old right handed woman with no chronic
medical conditions who presented to the hospital with right 
sided
weakness.   

Ms. ___ reports that today she was at baseline through morning,
but at about 1400 she acutely had onset of difficulty with
speaking with her voice not sounding normal and right sided
weakness.  Ms. ___ also feels that her vision from the right 
eye
was different.  She has a hard time describing what she
appreciated, but feels that things appeared larger than normal. 
She also became nauseated and vomited.  She called her niece who
called EMS.  She was brought here.    
  
Code stroke was not called because on arrival her NIHSS was 0. 
She had a NCHCT which showed old right parietal and right
cerebellar hemisphere strokes. Her CTA head and neck showed
extensive calcified and noncalcified atherosclerosis. 

She tells me that she currently feels back at baseline and that
her weakness lasted for about one hour.  She denied that she had
ever had a stroke and endorses that she has never had symptoms
that she should thought could represent a stroke.  She has no
history of seizures or migraines.   

 
Past Medical History:
No medical conditions, but does not regularly see a doctor.  She
reports that she only sees doctors when she is sick and last saw
one two or so years ago.  
 
Social History:
___
Family History:
Her mom died of stroke at ___ and father died of stroke at ___. 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
General: Comfortable and in no distress 
Head: No irritation/exudate from eyes, nose, throat 
Neck: Supple with no pain to flexion or extension 
Cardio: Regular rate and rhythm, warm, no peripheral edema 
Lungs: Unlabored breathing 
Abdomen: Soft, non tender, non distended 
Skin: No rashes or lesions 

Neurologic:
Mental Status: 
She speaks sometimes in ___, but sometimes requires her
daughter for interpretation.  Alert, oriented x 3. Able to 
relate
history without difficulty. She cannot do months of the year
backwards and on days of the week backwards twice she flips two
days. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
She was able to name both high and low frequency objects.  
Speech
was not dysarthric. Able to follow both midline and appendicular
commands. There was no evidence of apraxia or neglect.

Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. 

Motor: 
Normal bulk, tone throughout. No pronator drift bilaterally.
Neurologic examination:

  Delt Bic Tri WrE FFl  FE    IP   Quad  Ham TA   ___
L  5    ___   5    5     5     5    5   5      5     5
R  5    ___   5    5     5     5    5   5      5     5

Sensory: 
No deficits to light touch, proprioception throughout.
No extinction to DSS.

Reflexes:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor versus mute bilaterally.

Coordination: 
No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

Gait: 
She deferred, she said that she was cold and that she is in her
nightgown. 

DISCHARGE PHYSICAL EXAM:
General: Alert, comfortable; NAD. 
HEENT: NC/AT, MMM.
CV: Well-perfused throughout.
Chest: Nonlabored breathing.
Abd: Soft, ND.

Neur:
MS: A&Ox3. First-language ___ adequately proficient in
___. Fluent speech. Normal affect.
CN: PERRL, EOMI. Symmetric face. Tongue midline.
Mot: Normal tone and bulk throughout. Full strength throughout.
___: Intact to light touch throughout.
Reflex: Deferred.
Coordin: No dysmetria.
Gait: Deferred.
 
Pertinent Results:
___ 03:45PM BLOOD WBC-14.0* RBC-4.83 Hgb-14.2 Hct-44.0 
MCV-91 MCH-29.4 MCHC-32.3 RDW-13.4 RDWSD-44.9 Plt ___
___ 03:53PM BLOOD ___ PTT-30.5 ___
___ 03:45PM BLOOD Glucose-169* UreaN-10 Creat-0.7 Na-140 
K-3.8 Cl-102 HCO3-22 AnGap-16
___ 03:45PM BLOOD ALT-16 AST-20 AlkPhos-127* TotBili-0.3
___ 03:45PM BLOOD cTropnT-<0.01
___ 03:45PM BLOOD Albumin-4.5 Calcium-9.5 Phos-3.7 Mg-2.0

___ 05:30AM BLOOD WBC-10.1* RBC-4.56 Hgb-13.5 Hct-41.7 
MCV-91 MCH-29.6 MCHC-32.4 RDW-13.6 RDWSD-46.2 Plt ___
___ 05:30AM BLOOD ___ PTT-32.1 ___
___ 05:30AM BLOOD Glucose-120* UreaN-13 Creat-0.7 Na-142 
K-4.4 Cl-104 HCO3-25 AnGap-13
___ 05:30AM BLOOD LD(LDH)-167
___ 05:30AM BLOOD Calcium-9.4 Phos-3.8 Mg-2.2
___ 01:11PM BLOOD Lactate-0.9

___ 05:35AM BLOOD %HbA1c-7.0* eAG-154*
___ 05:35AM BLOOD Triglyc-186* HDL-39* CHOL/HD-5.4 
LDLcalc-135*
___ 05:35AM BLOOD TSH-0.91
___ 05:35AM BLOOD CRP-8.7*
___ 03:45PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 01:11PM BLOOD ___ pO2-37* pCO2-54* pH-7.33* 
calTCO2-30 Base XS-0 Comment-GREEN TOP
___ 03:50PM BLOOD Lactate-2.9* Creat-0.7

___ CTA H&N:
1. No evidence of acute large territory infarction or 
hemorrhage, however, if
there is persistent clinical concern related with acute or 
subacute ischemic
changes, correlation with MRI of the brain is recommended.
2. Encephalomalacia involving the right parietal lobe and right 
cerebellum
which are sequela of chronic infarction.
3. Approximately 75% of stenosis identified at the right 
cervical carotid
bifurcation associated with a combination of calcified and 
noncalcified
arteriosclerotic disease, no also producing approximately 30% of 
stenosis on
the left carotid bifurcation by NASCET criteria.
4. Extensive noncalcified atherosclerosis involving the aortic 
arch and
proximal descending aorta.

___ MRI Head w/o:
-Multiple subacute infarcts in the superior right cerebellar 
hemisphere,
superior vermis, right superior cerebellar peduncle and right 
medial thalamus.
No hemorrhage.
-Old right cerebellar hemisphere and right frontal lobe 
infarcts.
-Chronic microvascular angiopathy changes.

___ TTE:
 No structural cardiac source of embolism (e.g.patent foramen 
ovale/atrial septal
defect, intracardiac thrombus, or vegetation) seen.

 
Brief Hospital Course:
Pt is a ___ y/o R-handed woman w/ newly discovered DM and 
hyperlipidemia who presented to ED after transient R-sided 
weakness. She was evaluated by Neurology whose exam showed 
subtle R-sided ataxia and minimal R-sided weakness. She was 
admitted for stroke w/up with CT and MRI showing evidence of 
subacute to chronic small ischemic strokes in R cerebellum and R 
thalamus.
Due to CTA head/neck showing evidence of extensive calcified and 
noncalcified atherosclerosis, concern raised for embolic 
etiology. Pt was started on ASA and Atorvastatin 40mg qpm and 
underwent transthoracic echocardiogram which was normal. Due to 
newfound DM,  pt was evaluated by ___, who recommended 
starting metformin. Also, pt had ocular U/S for physician 
teaching purposes; incidentally found to have floaters 
(uncertain significance) despite no visual symptoms. Due to 
stable exam, patient was discharged with further workup as 
outpatient.

===================
TRANSITIONAL ISSUES:
===================
-To assess for atrial fibrillation, pt will start cardiac 
monitoring (ZIO patch), to be on for 1 month.
-Pt will c/w ASA and Atorvastatin 
-Pt will f/up w/ primary care, w/ Neurology, w/ Ophthalmology, 
and w/ Endocrinology.
 
Medications on Admission:
None
 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*1 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*1 
3.  MetFORMIN (Glucophage) 500 mg PO Q12H 
RX *metformin 500 mg 1 tablet(s) by mouth every twelve (12) 
hours Disp #*60 Tablet Refills:*1 
4.Outpatient Physical Therapy

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
subacute and chronic brain infarcts

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

  You were admitted for work-up after you had transient 
right-sided weakness. You were found to have a few old strokes 
in your brain. You were also found to have high cholesterol (for 
which we started atorvastatin) and diabetes mellitus (for which 
we will start metformin).
  On ultrasound of your eyes, you were found to have floaters; 
we do not know if these are significant findings given that your 
eyesight is at baseline.

  To assess for an arrhythmia, like atrial fibrillation, you 
will have a cardiac monitor on you for the next month.
  You should follow-up with your primary care, with Neurology, 
with Ophthalmology, and with Endocrinology.
 You should continue taking Aspirin, Atorvastatin, and 
Metformin. 
It was a pleasure taking care of you.
 - Your ___ Neurology team
 
Followup Instructions:
___